US07696223B2
a) 2-Methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
A solution of 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (388 mg, 2.53 mmol), iodobenzene (619 mg, 3.04 mmol), copper(I) iodide (24 mg, 0.127 mmol), N,N′-dimethyl-ethane-1,2-diamine (54 μL, 0.506 mmol), potassium phosphate (1.128 g, 5.31 mmol) in dry toluene (2.5 mL) was irradiated with microwave at 130° C. for 2 h; then the solids were filtered off, the filtrate was concentrated, the resulted residue was purified on column to give the title product (302 mg); The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=7.5-7.2 (m, 5H), 6.51 (s, 2H), 4.28 (q, 2H, J=7.4 Hz), 2.44 (s, 3H), 1.36 (t, 3H, J=7.4 Hz).

reactant | 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 2.53 mmol, 388 mg | C(C)OC(=O)C1=C(NC=C1)C | C8H11NO2
reactant | iodobenzene | 3.04 mmol, 619 mg | IC1=CC=CC=C1 | C6H5I
reactant | N,N′-dimethyl-ethane-1,2-diamine | 0.506 mmol, 54 μL | CNCCNC | C4H12N2
reactant | potassium phosphate | 5.31 mmol, 1.128 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.127 mmol, 24 mg | [Cu]I
product | 2-Methyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 302 mg | C(C)OC(=O)C1=C(N(C=C1)C1=CC=CC=C1)C | C14H15NO2
